US08183275B2
Acetic acid (1.08 mL, 18.9 mmol) and 2M methylamine in THF (1.09 mL, 2.2 mmol) were added to a solution of 3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propanamide in xylenes (20 mL). The solution was stirred at reflux with azeotropic removal of water for 1 h. Another batch of acetic acid and methylamine were added and stirring was continued at reflux for another 4 h. After cooling to rt, the solution was washed with brine, dried (MgSO4), filtered, and concentrated in vacuo to give 2-[2-(4-bromophenyl)ethyl]-5-(2,2-dimethylbutyl)-1-methyl-1H-imidazole.

reactant | methylamine | 2M | CN | CH5N
reactant | THF | 2.2 mmol, 1.09 mL | C1CCOC1 | C4H8O
reactant | 3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propanamide | BrC1=CC=C(C=C1)CCC(=O)NCC(CC(CC)(C)C)=O | C17H24BrNO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | Acetic acid | 18.9 mmol, 1.08 mL | C(C)(=O)O | C2H4O2
product | 2-[2-(4-bromophenyl)ethyl]-5-(2,2-dimethylbutyl)-1-methyl-1H-imidazole | BrC1=CC=C(C=C1)CCC=1N(C(=CN1)CC(CC)(C)C)C | C18H25BrN2
